US04801705
(A) [2-[(3,4-Dimethoxyphenyl)amino]-2-oxoethyl]carbamic acid, phenylmethyl ester
To a suspension of 25.9 g (124 mmol) of N-(phenylmethoxycarbonyl)glycine in 370 ml of dichloromethane, were added at 0° C., 0.74 ml of dimethylformamide and 18.8 g (148 mmol) of oxyalylchloride. The mixture was allowed to warm to room temperature and was then added dropwise to a mixture of 19.0 g (124 mmol) of 3,4-dimethoxyaniline (sublimed) and washed with 10% hydrochloric acid solution and twice with water, and dried over sodium sulfate. After the evaporation of the solvent, the residue was triturated with ether and dried in vacuo; yield: 26.3 g.

reactant | N-(phenylmethoxycarbonyl)glycine | 124 mmol, 25.9 g | C1(=CC=CC=C1)COC(=O)NCC(=O)O | C10H11NO4
reactant | dimethylformamide | 0.74 ml | CN(C=O)C | C3H7NO
reactant | 3,4-dimethoxyaniline | 124 mmol, 19.0 g | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dichloromethane | 370 ml | ClCCl | CH2Cl2
product | [2-[(3,4-Dimethoxyphenyl)amino]-2-oxoethyl]carbamic acid, phenylmethyl ester | COC=1C=C(C=CC1OC)NC(CNC(OCC1=CC=CC=C1)=O)=O | C18H20N2O5
